US06069156
Methyl 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylate (533 mg) was prepare from methyl 3-isobutyryl-2-propylindole-6-carboxylate (440 mg) and 2-chlorobenzyl bromide (346 mg) in a similar manner to that of Example 1.

reactant | methyl 3-isobutyryl-2-propylindole-6-carboxylate | 440 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCC | C17H21NO3
reactant | 2-chlorobenzyl bromide | 346 mg | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylate | 533 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)C(C(C)C)=O)CCC)C=CC=C1 | C24H26ClNO3
